US05200110
114 g (0.45 mol) of 4-(trans-4'-propylcyclohexyl) benzyl chloride, 27 g (0.55 mol) of NaCN and 113 cm3 of DMSO were mixed and while stirring, the mixture was heated to a temperature of 140° C. by a mantle heater. The product of the reaction was cooled to room temperature. 400 cm3 of water was added and extracted three times with 100 cm3 of chloroform. The chloroform layers were combined and washed with 10% hydrochloric acid and water. The chloroform was distilled off under reduced pressure and the residue was distilled under reduced pressure (155° C./2.5 mmHg) to yield 106 g (0.44 mol) of 4-(trans-4'-propylcyclohexyl) benzyl cyanide.

reactant | 4-(trans-4'-propylcyclohexyl) benzyl chloride | 0.45 mol, 114 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(CCl)C=C1 | C16H23Cl
reactant | NaCN | 0.55 mol, 27 g | [C-]#N.[Na+]
reactant | DMSO | 113 cm3 | CS(=O)C | C2H6OS
solvent | water | 400 cm3 | O | H2O
product | 4-(trans-4'-propylcyclohexyl) benzyl cyanide | 0.44 mol, 106 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(CC#N)C=C1 | C17H23N
